US05089506
Benzobicyclo[2.2.1]heptadiene
1-Bromo-2-iodobenzene (1 ml) was combined with cyclopentadiene (1.5 ml) and added dropwise to a mixture of magnesium (0.25 g) and tetrahydrofuran (25 ml) which had been heated to reflux. After the addition, heating was continued for 1 hour. The mixture was cooled to room temperature, treated with water (50 ml), and extracted with ether (3×30 ml). The combined organic layers were dried over magnesium sulfate and the solvents removed on a rotary evaporator. The residue was distilled on a Kugelrohr apparatus (40° C. at 0.1 mm Hg) to provide the product as a yellow oil.

reactant | 1-Bromo-2-iodobenzene | 1 ml | BrC1=C(C=CC=C1)I | C6H4BrI
reactant | cyclopentadiene | 1.5 ml | C1=CC=CC1 | C5H6
reactant | magnesium | 0.25 g | [Mg] | Mg
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | Benzobicyclo[2.2.1]heptadiene | C=12C3=C(C(=CC1)C2)C=CC=C3 | C11H8
